US04952587
(b) 3-[3-(1H-Indazol-3-yl)-1,2,4-oxadiazol-5-yl]-1-azabicyclo[2.2.2]octane hydrogen oxalate
[1H-Indazol-3-yl]amide oxime (190 mg) was dissolved in anhydrous tetrahydrofuran (50 ml) to which was added 4A molecular sieves. After stirring for 15 minutes sodium hydride (100 mg of 55% dispersion in oil) was added and the mixture stirred for a further 15 minutes before the addition of 3-carbomethoxy-1-azabicyclo[2.2.2]octane (400 mg). The resulting mixture was then heated at reflux for six hours, then cooled to room temperature. Methanol (10 ml) was added, the solution filtered and the solvent evaporated. The residue was purified by chromatography on silica using CH2Cl2 /CH3OH/NH4OH 90/10/1 as eluant to afford a colourless oil (300 mg). This was further purified by treatment with a solution of oxalic acid in acetone to afford the title compound, m.p. 215° C. (dec). Found: C, 58.22; H, 5.44; N, 19.41. C18H17N5O6 requires C, 57.92; H, 5.13; N, 19.30%; δH (360 MHz, D2O) 1.98 (2H, m, CH2CH2 --N), 2.26 (2H, m, CH2CH2 --N), 2.75 (1H, m, CH--CH2CH2 --N), 3.51 (3H, m, CH2CH2N), 3.97 (3H, m, CH2CH2N), 7.35 (1H, t, J=4 Hz, H-6), 7.54 (1H, t, J=4.9 Hz, H-5), 7.68 (1H, d, J=4 Hz, H-7), 8.03 (1H, d, J=4 Hz, H-4); m/z (M+, free base 95%) 295 (95), 238 (15), 212 (100), 159 (40), 143 (35), 96 (70), 83 (60).

reactant | [1H-Indazol-3-yl]amide oxime | 190 mg | C1=CC=C2C(=C1)C(=C(N)N=O)NN2 | C8H8N4O
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 3-carbomethoxy-1-azabicyclo[2.2.2]octane | 400 mg | C(=O)(OC)C1CN2CCC1CC2 | C9H15NO2
reactant | Methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[3-(1H-Indazol-3-yl)-1,2,4-oxadiazol-5-yl]-1-azabicyclo[2.2.2]octane hydrogen oxalate | 300 mg | C(C(=O)O)(=O)O.N1N=C(C2=CC=CC=C12)C1=NOC(=N1)C1CN2CCC1CC2 | InChI=1S/C16H17N5O.C2H2O4/c1-2-4-13-11(3-1)14(19-18-13)15-17-16(22-20-15)12-9-21-7-5-10(12)6-8-21;3-1(4)2(5)6/h1-4,10,12H,5-9H2,(H,18,19);(H,3,4)(H,5,6)
